* Z:\mnt\design.r\spice\examples\2996.asc
R2 N001 N003 43K
V1 IN 0 3.3
C1 N002 N004 470p
Q1 N002 N002 N004 0 2N3904
R1 N003 N005 36K
R3 N005 0 102K
XU1 N003 N005 N002 N004 OUT IN 0 N001 NC_01 NC_02 LTC2996
.model NPN NPN
.model PNP PNP
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 13m startup
.temp -50 -25 0 25 50 85
.lib LTC2996.sub
.backanno
.end
